US07291631B2
Using General Procedure B: Reaction of 1-methyl-1-pyridin-2-yl-ethylamine and 5-chloro-3-methyl-pyridine-2-carbaldehyde in CH2Cl2 with NaBH(OAc)3 gave (5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amine as a beige oil. 1H NMR (CDCl3) δ 1.61 (s, 6H), 2.19 (s, 3H), 3.62 (s, 2H), 4.66 (s, 1H), 7.11-7.15 (m, 1H), 7.38 (s, 1H), 7.48 (d, 1H, J=6.0 Hz), 7.62-7.67 (m, 1H), 8.37 (s, 1H), 8.58 (d, 1H, J=6.0 Hz).

reactant | 1-methyl-1-pyridin-2-yl-ethylamine | CC(C)(C1=NC=CC=C1)N | C8H12N2
reactant | 5-chloro-3-methyl-pyridine-2-carbaldehyde | ClC=1C=C(C(=NC1)C=O)C | C7H6ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-chloro-3-methyl-pyridin-2-ylmethyl)-(1-methyl-1-pyridin-2-yl-ethyl)-amine | ClC=1C=C(C(=NC1)CNC(C)(C1=NC=CC=C1)C)C | C15H18ClN3
